US07977340B2
A solution of 3-Nitro-5-pyridin-3-yl-2-thiocyanato-benzoic acid methyl ester (1.1 g, 3.49 mmol) in glacial acetic acid (23 ml) was treated with iron powder (0.97 g, 17.5 mmol) and stirred at ambient temperature for 16 h. The resultant mixture was diluted with water (200 ml) and made alkaline by the addition of concentrated ammonia solution. The mixture was filtered and the filtrate extracted with ethyl acetate (3×200 ml). The filtered solid was extracted with boiling ethanol (3×250 ml) and the combined organic fractions evaporated to dryness to give 2-Amino-5-pyridin-3-yl-benzothiazole-7-carboxylic acid methyl ester as an off-white solid (0.46 g, 46%).

reactant | 3-Nitro-5-pyridin-3-yl-2-thiocyanato-benzoic acid methyl ester | 3.49 mmol, 1.1 g | COC(C1=C(C(=CC(=C1)C=1C=NC=CC1)[N+](=O)[O-])SC#N)=O | C14H9N3O4S
reactant | ammonia | N | H3N
solvent | acetic acid | 23 ml | C(C)(=O)O | C2H4O2
solvent | water | 200 ml | O | H2O
catalyst | iron | 17.5 mmol, 0.97 g | [Fe] | Fe
product | 2-Amino-5-pyridin-3-yl-benzothiazole-7-carboxylic acid methyl ester | 0.46 g, 46% | COC(=O)C1=CC(=CC=2N=C(SC21)N)C=2C=NC=CC2 | C14H11N3O2S
